US09382188B2
B) 2-methoxy-3-neopentylpyridine
Under an argon atmosphere, a solution of 1-bromo-2,2-dimethylpropane (14.8 mL) in diethyl ether (120 mL) was added dropwise to magnesium (3.15 g) at a slow refluxing rate. The reaction mixture was heated under reflux for 30 min, and the obtained solution was added dropwise to a solution of 3-bromo-2-methoxypyridine (4.43 g) and PEPPSI™-SIPr (trade name) (805 mg) in THF (80 mL) at room temperature. The reaction mixture was stirred at room temperature for 30 min, and saturated aqueous ammonium chloride solution was added at room temperature. The reaction mixture was extracted with ethyl acetate, and the extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a crude product of the title compound (4.24 g) as a pale-yellow oil. This compound was used for the next step without further purification.

reactant | 1-bromo-2,2-dimethylpropane | 14.8 mL | BrCC(C)(C)C | C5H11Br
reactant | magnesium | 3.15 g | [Mg] | Mg
reactant | 3-bromo-2-methoxypyridine | 4.43 g | BrC=1C(=NC=CC1)OC | C6H6BrNO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 120 mL | C(C)OCC | C4H10O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | SIPr | 805 mg | CC(C)C1=C(C(=CC=C1)C(C)C)N2CC[N+](=[C-]2)C3=C(C=CC=C3C(C)C)C(C)C | C27H38N2
product | 2-methoxy-3-neopentylpyridine | 4.24 g | COC1=NC=CC=C1CC(C)(C)C | C11H17NO
